US07501518B2
Using General Procedure A: A solution of 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (0.414 g, 1.55 mmol), α-bromo-m-tolunitrile (0.466 g, 2.38 mmol), KI (53 mg, 0.32 mmol), and DIPEA (0.55 mL, 3.16 mmol) in DMF (8 mL) was heated at 60° C. for 18 hours. Purification of the crude material by column chromatography on silica gel (40:1:1 CH2Cl2—CH3OH—NH4OH) provided 0.447 g (75%) of 3-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzonitrile as a beige solid. 1H NMR (CDCl3) δ 1.56-1.72 (m, 3H), 2.05-2.10 (m, 1H), 2.18-2.34 (m, 2H), 2.41 (s, 6H), 3.53 (s, 2H), 4.10 (d, 2H, J=11.1 Hz), 6.71 (s, 1H), 6.83 (d, 1H, J=7.8 Hz), 6.93-7.00 (m, 3H), 7.13 (d, 1H, J=7.5 Hz), 7.25-7.27 (m, 2H), 8.39 (dd, 2H, J=4.8, 1.2 Hz); ES-MS m/z 383 (M+H).

reactant | 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 1.55 mmol, 0.414 g | CC=1C(=NC=CC1)C1NC(CCC1)C1=NC=CC=C1C | C17H21N3
reactant | α-bromo-m-tolunitrile | 2.38 mmol, 0.466 g | BrCC1=CC(=CC=C1)C#N | C8H6BrN
reactant | DIPEA | 3.16 mmol, 0.55 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzonitrile | 0.447 g, 75% | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CC=1C=C(C#N)C=CC1 | C25H26N4
